US06127382
(3-Bromophenyl)isopropylamine (Compound 29)
Sodium borohydride (16.5 g, 435 mmol) was added slowly over 2 hours to a mixture of 3-bromoaniline (10 g, 58.13 mmol), ethanol (58 mL), acetic acid (50 mL, 866.1 mmol), water (140 mL), acetone (35 mL, 482.5 mmol), and sodium acetate (15.8 g, 116.2 mmol). The solution was stirred at 0° C. for 3 hours. The reaction mixture was poured into 1:1 mixture of ether and hexane containing 2N KOH. The layers were separated and the aqueous layer was extracted with ether/hexane (1:1). The combined organic layers were washed once with water and brine, dried with MgSO4, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (10% ethyl acetate in hexane, Rf=0.31) to give the title compound (23.10 g, 93% as an oil:

reactant | Sodium borohydride | 435 mmol, 16.5 g | [BH4-].[Na+]
reactant | 3-bromoaniline | 58.13 mmol, 10 g | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | acetic acid | 866.1 mmol, 50 mL | C(C)(=O)O | C2H4O2
reactant | acetone | 482.5 mmol, 35 mL | CC(=O)C | C3H6O
reactant | sodium acetate | 116.2 mmol, 15.8 g | C(C)(=O)[O-].[Na+]
solvent | hexane | 2N | CCCCCC | C6H14
solvent | ether | CCOCC | C4H10O
solvent | water | 140 mL | O | H2O
solvent | ethanol | 58 mL | C(C)O | C2H6O
product | (3-Bromophenyl)isopropylamine | BrC=1C=C(C=CC1)NC(C)C | C9H12BrN
